US07547696B2
a.)-2-Amino-3-cyano-4-[2-thienylmethylamino]-6-dimethylaminoquinoline
3 g of 2-amino-3-cyano-4-chloro-6-dimethylaminoquinoline and 6 mL of 2-thienylmethylamine are stirred at 125° C. for 3 hours. The reaction mixture is poured onto 30 mL of water. The precipitated material is filtered off, washed with 20 mL of water. After drying 1.9 g of the title compound is obtained, m.p.: 211° C.

reactant | 2-amino-3-cyano-4-chloro-6-dimethylaminoquinoline | 3 g | NC1=NC2=CC=C(C=C2C(=C1C#N)Cl)N(C)C | C12H11ClN4
reactant | 2-thienylmethylamine | 6 mL | S1C(=CC=C1)CN | C5H7NS
solvent | water | 30 mL | O | H2O
product | 2-Amino-3-cyano-4-[2-thienylmethylamino]-6-dimethylaminoquinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)NCC=1SC=CC1)N(C)C | C17H17N5S
